US08110575B2
(5-Chloro-2,3-dihydro-indol-1-yl)-(6-chloro-pyrimidin-4-yl)-methanone
1.5 g (8.48 mmol) 6-chloropyrimidine-4-carboxylic acid chloride in 50 mL dichloromethane were cooled with an ice/ethanol bath and combined with 1.2 g (7.81 mmol) 5-chloro-2,3-dihydro-1H-indole. 7.9 mL (7.9 mmol) of a 1M sodium hydroxide solution were added dropwise. The reaction mixture was stirred for 2 h with cooling and for 1 h at RT. The man 50 mL of an aqueous saturated sodium hydrogen carbonate solution were added. After 10 min stirring the organic phase was separated off and washed with water and 1 M hydrochloric acid. The organic phases was dried on magnesium sulphate, filtered and evaporated down i.vac.

reactant | 6-chloropyrimidine-4-carboxylic acid chloride | 8.48 mmol, 1.5 g | ClC1=CC(=NC=N1)C(=O)Cl | C5H2Cl2N2O
reactant | 5-chloro-2,3-dihydro-1H-indole | 7.81 mmol, 1.2 g | ClC=1C=C2CCNC2=CC1 | C8H8ClN
reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | sodium hydrogen carbonate | 50 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (5-Chloro-2,3-dihydro-indol-1-yl)-(6-chloro-pyrimidin-4-yl)-methanone | ClC=1C=C2CCN(C2=CC1)C(=O)C1=NC=NC(=C1)Cl | C13H9Cl2N3O
